US04371536
12 g of β-carbolin-3-carboxylic acid methyl ester is suspended in 130 ml of methanol; 130 ml of 40% aqueous methylamine is added thereto and the whole is boiled at reflux for 2 hours. After cooling, the mixture is suction-filtered. By extraction with 300 ml of hot methanol and crystallization from dimethylformamide/hexane, the β-carbolin-3-carboxylic acid N-methylamide of melting point 264°-266° C. is isolated from the filter residue in 43% yield.

reactant | β-carbolin-3-carboxylic acid methyl ester | 12 g | COC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1 | C13H10N2O2
reactant | methylamine | 130 ml | CN | CH5N
solvent | methanol | 130 ml | CO | CH4O
product | β-carbolin-3-carboxylic acid N-methylamide | 43% yield | CNC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1 | C13H11N3O
